US07667041B2
Synthesis of N-(4-bromo-2-methoxyphenyl)-2,2,2-trifluoroacetamide
Trifluoroacetic anhydride (24 mL) was added dropwise to a pyridine (48 mL) solution of 4-bromo-2-methoxyaniline (23.4 g) under ice-cooling. The reaction solution was stirred for an hour and iced water was added thereto. Crystals deposited were separated by filtering, and air-dried overnight. 32.4 g of the title compound was obtained.

reactant | Trifluoroacetic anhydride | 24 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 48 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-bromo-2-methoxyaniline | 23.4 g | BrC1=CC(=C(N)C=C1)OC | C7H8BrNO
solvent | water | O | H2O
product | N-(4-bromo-2-methoxyphenyl)-2,2,2-trifluoroacetamide | 32.4 g | BrC1=CC(=C(C=C1)NC(C(F)(F)F)=O)OC | C9H7BrF3NO2
